*source TLV1851
* PSpice Model Editor - Version 17.4.0
*$
* TLV1851
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLV1851
* Date: 12/06/2022
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.4.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSDE7
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web        
*
*****************************************************************************
* Model Notes:
*  Modeled parameters:
*  Supply Voltage Range (1.8 to 40V)
*  Input Voltage Range (see below)
*  Supply Current (typical)
*  Input Bias Currents (typical) (see below)
*  Typical Offset Voltage (see below)
*  Propagation Delay (fixed)
*  Internal Hysteresis 
*  Power On Reset
*  Reverse Battery Protection (see below)
*  
* INPUT VOLTAGE and INPUT BIAS CURRENT:
* Input bias current is typically 80pA. However, if V+ is in recommended supply range AND inputs are above V+, input bias current is 50nA (over the rail mode). 
* OFFSET VOLTAGE: 
* Offset voltage can be adjusted in the macro with device V_VOS
* REVERSE BATTERY PROTECTION:
* If supply voltages are placed in reverse (ie, +12V on V- and 0V on V+), then OUT will be (V-) - Vf(internal body diode)
*****************************************************************************

* source TLV1851
.SUBCKT TLV1851 IN+ IN- V+ V- OUT
X_U4 N21103 N862087 Prop_Delay  
X_U5 RVB_EN 0 N786723 V+ V+_BUFFER V- V-_BUFFER N862127 OUT Output_Stage  
X_U6 V+ V+_BUFFER V- V-_BUFFER Supply_Buffer  
X_U3         N785573 IN-BUFF N21103 V+_BUFFER V-_BUFFER N852568 HPA_COMPHYS
I_IS         N843683 V- DC 560n  
X_U7 EN N786723 V+_BUFFER V-_BUFFER Supply_Enable  
X_U1 IN+ IN+BUFF IN- IN-BUFF Input_Buffer  
V_VOS         N785573 IN+BUFF 0.25m
R_RIS         N843683 V+  1u TC=0,0 
C_CINPL         V- IN+  0.5p  TC=0,0 
C_CINNL         V- IN-  0.5p  TC=0,0 
C_CINPH         IN+ V+  0.5p  TC=0,0 
C_CINNH         IN- V+  0.5p  TC=0,0 
V_VHYST         N852568 0 2.7m
E_E1         N862127 V-_BUFFER N862087 V-_BUFFER 2
X_DESD3          V- IN+ DESD PARAMS: AREA=1.0
X_DESD4          V- IN- DESD PARAMS: AREA=1.0
V_VLOGIC         1V 0 1
X_U8         V-_BUFFER V+_BUFFER RVB_EN 1V 0 VCC_Range
X_U9         IN+ V+ N879589 1V 0 VCC_Range
G_G1         IN+ V- TABLE { V(CONTROL_IBN+, 0) } 
+ ( (0,80p) (1,50n) )
X_U10         N879589 N883030 CONTROL_IBN+ 1V 0 ANDGATE
X_U11         EN N883030 1V 0 INVERTER
X_U12         IN- V+ N884396 1V 0 VCC_Range
X_U13         N884396 N884552 CONTROL_IBN- 1V 0 ANDGATE
X_U14         EN N884552 1V 0 INVERTER
G_G2         IN- V- TABLE { V(CONTROL_IBN-, 0) } 
+ ( (0,80p) (1,50n) )
.ENDS
 
.SUBCKT Input_Buffer IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Supply_Enable EN POR V+_BUFFER V-_BUFFER  
X_U15         N786085 N785687 POR 1V 0 VCC_Range
X_U17         N785701 N785811 EN 1V 0 ORGATE 
V_VLOGIC         1V 0 1
X_U5         N785687 N785597 N785701 1V 0 VCC_Range
V_VS_MIN_SET1         N785913 0 1.79
V_VS_MIN_SET         N786085 0 1.79
V_VS_MAX_SET         N785597 0 40.11
X_U16         N785913 N785687 N785811 1V 0 VCC_Range
X_U13         V+_BUFFER V-_BUFFER N785687 1V 0 Difference
.ENDS
 
.SUBCKT Supply_Buffer V+ V+_BUFFER V- V-_BUFFER  
X_U1         V+ V- V+_BUFFER V-_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Output_Stage EN IN_RANGE POR V+ V+_BUFFER V- V-_BUFFER VIN VOUT  
X_SRVB    CONTROL_RVB 0 N778484 RVB_OUT Output_Stage_SRVB 
X_U3         VIN N774212 V+_BUFFER V-_BUFFER V+ N774290 DIGLEVSHIFT
X_U7         MID V+_BUFFER V-_BUFFER MID_SUPPLY
V_VLOGIC         1V 0 1
V_V1         V+ N774290 1
X_SHIZ    CONTROL_HIZ 0 N778484 N778496 Output_Stage_SHIZ 
X_U8          POR IN_RANGE EN EN CONTROL_HIZ 1V 0 4ORGATE
X_U9         CONTROL_HIZ N789513 1V 0 INVERTER
X_U10         N789513 POR CONTROL_RVB 1V 0 ORGATE 
L_L1         N778484 VOUT  1n  
C_COUTH         VOUT V+  0.5p  TC=0,0 
C_COUTL         V- VOUT  0.5p  TC=0,0 
X_SVOL    N774212 N774290 V- N850209 Output_Stage_SVOL 
R_ROUTL         N850209 N778496  60 TC=0,0 
R_ROUTH         N778496 N8552942  60 TC=0,0 
X_SVOH    N774212 N774290 N8552942 V+ Output_Stage_SVOH 
X_U13         V-_BUFFER N870632 RVB_OUT 1V 0 Difference
E_E1         N870632 0 N871586 0 1
X_DESD4          N871586 0 DESD PARAMS: AREA=1.0
R_ROUTL1         N871586 V-_BUFFER  500 TC=0,0 
.ENDS
 
.SUBCKT Prop_Delay VIN VOUT  
T_TPD         N03175 0 VOUT 0 Z0=50 TD=25u  
R_RT         0 VOUT  50 TC=0,0 
R_RS         N03175 VIN  50 TC=0,0 
.ENDS

.subckt Output_Stage_SRVB 1 2 3 4  
S_SRVB         3 4 1 2 _SRVB
RS_SRVB         1 2 1G
.MODEL         _SRVB VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SRVB

.subckt Output_Stage_SHIZ 1 2 3 4  
S_SHIZ         3 4 1 2 _SHIZ
RS_SHIZ         1 2 1G
.MODEL         _SHIZ VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SHIZ

.subckt Output_Stage_SVOL 1 2 3 4  
S_SVOL         3 4 1 2 _SVOL
RS_SVOL         1 2 1G
.MODEL         _SVOL VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SVOL

.subckt Output_Stage_SVOH 1 2 3 4  
S_SVOH         3 4 1 2 _SVOH
RS_SVOH         1 2 1G
.MODEL         _SVOH VSWITCH Roff=1e12 Ron=1.0 Voff=0 Von=1
.ends Output_Stage_SVOH


.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT 4ORGATE 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS
*$
.subckt DESD AN CAT 
+ params:
+ AREA=1.0
+ IS=10f
+ RS=5
+ BV=100
D_DESD AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ bv={BV}
.ends DESD

.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS